US06770463B2
Preparation of (2R)-2-(4-chlorophenyl)-2-cyclopropylethanol
To a stirred solution of (2R)-(4-chlorophenyl)(cyclopropyl)ethanoic acid (7.25 g, 34.4 mmol) in tetrahydrofuran (200 ml) at 0° C. under nitrogen is added dropwise over one hour borane-tetrahydrofuran complex (58 ml of a 1.0 solution in tetrahydrofuran, 58 mmol). The solution is warmed to room temperature and stirred for an additional 4 h. The reaction mixture is cooled to 0° C. and carefully quenched by the dropwise addition of water: THF(1:1, 50 ml). The mixture is diluted with ethyl acetate (250 ml) and washed with water (250 ml). The organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with ether:hexane (25:75 to 40:60) to afford the title compound as a colorless syrup (5.70 g, 84%) which is characterized by 1HNMR, 13CNMR and mass spectral analyses.

reactant | (2R)-(4-chlorophenyl)(cyclopropyl)ethanoic acid | 34.4 mmol, 7.25 g | ClC1=CC=C(C=C1)[C@H](C(=O)O)C1CC1 | C11H11ClO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (2R)-2-(4-chlorophenyl)-2-cyclopropylethanol | 5.70 g, 84% | ClC1=CC=C(C=C1)[C@H](CO)C1CC1 | C11H13ClO
